US09301525B2
25 g (270 mmol) of 2-aminopyridine was dissolved in 200 ml of anhydrous dichloromethane, 41 ml (30 g, 300 mmol) of triethylamine was added thereto, and the mixture was cooled to 0° C. 38 ml (57 g, 270 mmol) of anhydrous trifluoroacetic acid was added dropwise thereto over 15 minutes, and the resulting mixture was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was injected into about 100 ml of iced water, and the mixture was stirred for 10 minutes. The mixture was transferred to a separatory funnel to perform liquid separation, and the organic layer was washed twice with 150 ml of water and twice with 150 ml of a 1% HCl aqueous solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 36 g (yield 71%) of 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetamide.

reactant | 2-aminopyridine | 270 mmol, 25 g | NC1=NC=CC=C1 | C5H6N2
reactant | triethylamine | 300 mmol, 41 ml, 30 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 270 mmol, 38 ml, 57 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | about 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-(pyridin-2(1H)-ylidene)acetamide | 36 g, yield 71% | FC(C(=O)N=C1NC=CC=C1)(F)F | C7H5F3N2O
